US05045541
By conducting reactions and treatments in the same manner as in Example 1 using 9-fluoro-2-(4-hydroxyphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one and 3-dimethylaminopropyl chloride, there is obtained 9-fluoro-2-[4-(3-dimethylaminopropoxy)phenyl]-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one, m.p. 118°-120° C.

reactant | 9-fluoro-2-(4-hydroxyphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | FC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)O)=O)C=C1 | C18H15FN2O2
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | 9-fluoro-2-[4-(3-dimethylaminopropoxy)phenyl]-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | FC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)OCCCN(C)C)=O)C=C1 | C23H26FN3O2
